US07138491B2
The preparation of H-Arg-Arg-Pro-Ala-Lys-OH (6) (SEQ ID NO: 20)
The solution of 280 mg (0.188 mmol) of Boc-Arg(Tos)-Arg(Tos)-Pro-Ala-Lys(ClZ)-OBzl (SEQ ID NO: 18), 1 ml of anisole and 2 ml of HF was stirred at 0° C. for 2 h. The reaction mixture was evaporated under reduced pressure to remove HF. To the residue 2 ml of HF were added and the solution was stirred at 0° C. for another 1 h. The reaction mixture was evaporated under reduced pressure to remove HF. The residue was triturated with ether and the resulted solid was purified on the Sephadex G-10 column. The collected fractions were lyophilized to provide 100 mg (85%) of the title compound. Mp. 168–170° C., FAB-MS (m/e) 627[M+H]+.

reactant | Boc-Arg(Tos)-Arg(Tos)-Pro-Ala-Lys(ClZ)-OBzl | 0.188 mmol, 280 mg | N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCNC(=O)OCC2=C(Cl)C=CC=C2)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C60H81ClN12O14S2
reactant | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
product | H-Arg-Arg-Pro-Ala-Lys-OH | 100 mg, 85% | N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCN)C(=O)O)CCC1 | C26H50N12O6
